US07179819B2
A mixture of methyl 6-tert-butoxycarbonylnicotinate (1.2 g, 5.06 mmol) in THF (15 ml) and 0.25 N NaOH (40 ml, 10 mol) at an ambient temperature for 0.5 hr. The mixture was poured into ice-1 N HCl (10 ml). The solid was collected, washed with water and air-dried. The crude solid was recrystallized from CHCl3-EtOH-IPE to afford 6-tert-butoxycarbonylnicotinic acid (850 mg, 76%) as needles. IR (KBr) n3095, 1728, 1705 cm−1; 1H-NMR (DMAO-d6) δ 1.63 (s, 9 H), 8.09 (m, 1 H), 8.17 (m, 1 H), 8.42 (dt, J=2.4 and 8.3 Hz, 1 H), 9.21 (t, J=2.4 and 8.8 Hz, 1 H); MS (FAB) m/z 224 (M++1); Anal. Calcd for C29H33N3O6: C, 36.18; H, 3.18; N, 3.84. Found: C, 36.85; H, 3.35; N, 3.79.

reactant | methyl 6-tert-butoxycarbonylnicotinate | 5.06 mmol, 1.2 g | C(C)(C)(C)OC(=O)C1=NC=C(C(=O)OC)C=C1 | C12H15NO4
reactant | NaOH | 10 mol, 0.25 N, 40 ml | [OH-].[Na+]
reactant | HCl | 10 ml | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
catalyst | ice-1 | C[C@@H]1OC[C@@H]2[C@@H](O1)[C@@H]([C@H]([C@@H](O2)OC3[C@H]4COC(=O)[C@@H]4[C@@H](C5=CC6=C(C=C35)OCO6)C7=CC(=C(C(=C7)OC)O)OC)O)O.C1CN(P(=O)(OC1)NCCCl)CCCl.[NH2-].[NH2-].Cl[Pt+2]Cl
product | 6-tert-butoxycarbonylnicotinic acid | 850 mg, 76% | C(C)(C)(C)OC(=O)C1=NC=C(C(=O)O)C=C1 | C11H13NO4
